US05523486
2.48 kg/h (20.5 mol/h) of 2,4-dimethylaniline, 1.83 kg/h (21.3 mol/h) of diketene (purity 98%) and 8 kg/h of a mixture of 2.4 kg/h of ethanol and 5.6 kg/h of water are metered separately but simultaneously into a reactor which has been preheated to about 80° C. The reactor consists of a double-shell glass vessel of about 0.6 l capacity and is equipped with a stirrer, thermometer, reflux condenser and, at the bottom, with a run-off. Immediately the metering has started, the heat evolved by the reaction causes the reactor contents to reflux at about 85° C. The heating of the reactor is discontinued and the reaction is continued by limiting the reactor contents to about 0.3 1 by continuous pumping out. The reactor discharge is cooled to about 15° C. with stirring, and the light-colored crystals which are formed are separated from about 7 kg/h of the pale yellow mother liquor by filtration. The moist product, which is obtained at about 5 kg/h, is washed with about 4 kg/h of cold aqueous 30% strength ethanol and dried, leaving 4 kg/h (19.5 mol/h) of 2',4'-dimethylacetoacetanilide (melting point about 89° C.) corresponding to a yield of 95% based on amine.

reactant | 2,4-dimethylaniline | CC1=C(N)C=CC(=C1)C | C8H11N
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2',4'-dimethylacetoacetanilide | yield of 95% | CC1=C(NC(CC(=O)C)=O)C=CC(=C1)C | C12H15NO2
